US03937824
Preparation of 1-Chloro-2-(N-isopropylcarbamoyloxy)-2-ethoxyiminoethane
N-Ethoxychloroacetamide (6.9 grams; 0.05 mole), benzene (70 ml) and dibutyltin dilaurate (1 drop) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. Isopropylisocyanate (5.1 grams; 0.06 mole) dissolved in benzene (20 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 2 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-2-(N-isopropylcarbamoyloxy)-2-ethoxyiminoethane.

reactant | N-Ethoxychloroacetamide | 0.05 mole, 6.9 grams | C(C)ONC(CCl)=O | C4H8ClNO2
reactant | Isopropylisocyanate | 0.06 mole, 5.1 grams | C(C)(C)N=C=O | C4H7NO
catalyst | dibutyltin dilaurate | 1 drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-(N-isopropylcarbamoyloxy)-2-ethoxyiminoethane | ClCC(=NOCC)OC(NC(C)C)=O | C8H15ClN2O3
